US08053440B2
2-(3,5-di-tert-butyl-4-hydroxyphenyl)-5,7-dimethoxyquinazolin-4(3H)-one was synthesized from 2-amino-4,6-dimethoxybenzamide and 3,5-di-tert-butyl-4-hydroxybenzaldehyde, using the method described for 5,7-dimethoxy-2-(pyridin-2-yl)quinazolin-4(3H)-one. 2-(3,5-di-tert-butyl-4-hydroxyphenyl)-5,7-dimethoxyquinazolin-4(3H)-one (130 mg, 41%) was isolated as a light yellow solid. Selected data: MS (m/z): 411.17; MP 229.7-230.5° C.

reactant | 2-amino-4,6-dimethoxybenzamide | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | 3,5-di-tert-butyl-4-hydroxybenzaldehyde | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | 5,7-dimethoxy-2-(pyridin-2-yl)quinazolin-4(3H)-one | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=NC=CC=C1)=O | C15H13N3O3
product | 2-(3,5-di-tert-butyl-4-hydroxyphenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 130 mg, 41% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C24H30N2O4
